US07544835B2
2-Ethoxy-3-[3-(2-{[(4-methoxyanilino)carbonyl]oxy}ethyl)-phenyl]propanoic acid
Using ethyl 2-ethoxy-3-[3-(2-hydroxyethyl)phenyl]propanoate and 4-methoxyphenylisocyanate, the title compound was obtained in the same manner as described in Example 160b).

reactant | ethyl 2-ethoxy-3-[3-(2-hydroxyethyl)phenyl]propanoate | C(C)OC(C(=O)OCC)CC1=CC(=CC=C1)CCO | C15H22O4
reactant | 4-methoxyphenylisocyanate | COC1=CC=C(C=C1)N=C=O | C8H7NO2
product | 2-Ethoxy-3-[3-(2-{[(4-methoxyanilino)carbonyl]oxy}ethyl)-phenyl]propanoic acid | C(C)OC(C(=O)O)CC1=CC(=CC=C1)CCOC(=O)NC1=CC=C(C=C1)OC | C21H25NO6
